US07923450B2
To a solution of 1,4-dioxa-spiro[4.5]decane-6-carboxylic acid (2.42 g, 13 mmol) in methanol (6 mL) was added a 5.4 N solution of sodium methoxide in methanol (2.41 mL). The mixture was stirred at 20° C. for 20 min and the solvent was then evaporated under reduced pressure. Toluene (20 mL) was added to the residue and the solvent was evaporated under reduced pressure. The white solid obtained (2.5 g) was suspended in toluene (13 mL) and thionyl chloride (1 mL, 13.8 mmol) was added to the stirred solution at 20° C. over 10 min. Stirring was continued at 40° C. for 1 h when gas evolution stopped to give a ca 1 M solution of 1,4-dioxa-spiro[4.5]decane-6-carbonyl chloride in toluene.

reactant | 1,4-dioxa-spiro[4.5]decane-6-carboxylic acid | 13 mmol, 2.42 g | O1CCOC12C(CCCC2)C(=O)O | C9H14O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | thionyl chloride | 13.8 mmol, 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 6 mL | CO | CH4O
solvent | methanol | 2.41 mL | CO | CH4O
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-dioxa-spiro[4.5]decane-6-carbonyl chloride | O1CCOC12C(CCCC2)C(=O)Cl | C9H13ClO3
